US07786108B2
Step 11. Preparation of (R)-tert-Butyl 5-hydroxy-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add a solution of borane dimethylsulfide complex (3.8 mL, 7.58 mmol, 2 M in tetrahydrofuran) dropwise to a solution of (S)-2-methyl-CBS-oxazaborolidine (9.5 mL, 9.48 mmol, 1M in toluene) in dichloromethane (20 mL) at −30° C. under nitrogen. Stir the mixture for 30 min and add a solution of tert-butyl 7-methyl-5-oxo-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (2.17 g, 6.32 mmol) in dichloromethane (20 mL) dropwise and warm the mixture slowly to 0° C. Pour the mixture into methanol (200 mL) at −20° C. and slowly warm the stirring mixture to room temperature over 1 h. Remove the solvents under reduced pressure and purify the residue by column chromatography on silica gel, eluting with ethyl acetate/hexanes (1:2), to provide the title compound as a colorless oil (1.65 g, 76%). APCI MS m/z 345 (M+H)+.

reactant | borane dimethylsulfide | 7.58 mmol, 2 M, 3.8 mL | CSC.B
reactant | (S)-2-methyl-CBS-oxazaborolidine | 9.48 mmol, 1M, 9.5 mL | B1(N2CCC[C@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | tert-butyl 7-methyl-5-oxo-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 6.32 mmol, 2.17 g | CC1=CC2=C(N(CCCC2=O)C(=O)OC(C)(C)C)C=C1C(F)(F)F | C17H20F3NO3
reactant | methanol | 200 mL | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (R)-tert-Butyl 5-hydroxy-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 1.65 g, 76% | O[C@H]1C2=C(N(CCC1)C(=O)OC(C)(C)C)C=C(C(=C2)C)C(F)(F)F | C17H22F3NO3
